US06143764
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(2-methylphenyl)urea [56]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (51 mg) was dissolved in toluene (5 ml) with heat, 2-methylphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 15 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 61 mg of the title compound (yield: 82%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 51 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 2-methylphenyl isocyanate | 0.2 ml | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(2-methylphenyl)urea | 61 mg, yield: 82% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C | C25H23N3O4
